************************************************************************
* auCdl Netlist:
* 
* Library Name:  Std_cells
* Top Cell Name: MUX2_1
* View Name:     schematic
* Netlisted on:  Mar 27 20:12:16 2025
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vdd!
+        gnd!

*.PIN vdd!
*+    gnd!

************************************************************************
* Library Name: Std_cells
* Cell Name:    MUX2_1
* View Name:    schematic
************************************************************************

.SUBCKT MUX2_1 A B OUT S
*.PININFO A:I B:I S:I OUT:O
MM11 OUT net3 vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM4 net6 A vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM3 net3 S net6 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM2 net3 net1 net5 vdd! pmos_rvt w=108.00n l=20n nfin=4
MM1 net5 B vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM0 net1 S vdd! vdd! pmos_rvt w=108.00n l=20n nfin=4
MM10 OUT net3 gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM9 net1 S gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM8 net7 A gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM7 net2 B gnd! gnd! nmos_rvt w=108.00n l=20n nfin=4
MM6 net3 net1 net7 gnd! nmos_rvt w=108.00n l=20n nfin=4
MM5 net3 S net2 gnd! nmos_rvt w=108.00n l=20n nfin=4
.ENDS

